US07223788B2
Piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide
Piperidine-1,4-dicarboxylic acid mono-tert-butyl ester was reacted with [1-(4-aminophenyl)pyrrolidin-3-yl]dimethylamine by method E, and the product was then treated by method G. This resulted in the product with the molecular weight of 316.45 (C18H28N4O); MS (ESI): 317 (M+H+).

reactant | Piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | [1-(4-aminophenyl)pyrrolidin-3-yl]dimethylamine | NC1=CC=C(C=C1)N1CC(CC1)N(C)C | C12H19N3
product | Piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)C1CCNCC1)C | C18H28N4O
